US09024027B2
(S)-4-(2-(2-(6-(tert-butoxycarbonylamino)-1-oxoisoindolin-2-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (70 mg, 0.099 mmol) was dissolved in HCl 4M in ethyl acetate (1.5 ml, 49.4 mmol). The reaction was stirred at RT for 2 hours. The reaction mixture was concentrated under vacuum, the crude product was triturated with Et2O and filtered to give (S)-4-(2-(2-(6-amino-1-oxoisoindolin-2-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (60 mg, 0.099 mmol, quantitative yield). 1H NMR (400 MHz, acetone) δ ppm 8.33 (s, 2H), 7.68-7.94 (m, 3H), 7.16-7.32 (m, 2H), 7.06 (dd, J=8.19, 1.83 Hz, 1H), 6.93 (t, 1H, CHF2), 6.12-6.23 (m, 1H), 4.61 (s, 2H), 4.46 (d, J=3.18 Hz, 2H), 3.99 (dd, J=6.85, 1.22 Hz, 2H), 3.57 (d, J=9.78 Hz, 1H), 3.37 (d, J=4.65 Hz, 1H), 1.22-1.37 (m, 1H), 0.54-0.68 (m, 2H), 0.40 (d, J=4.65 Hz, 2H); MS/ESI+ 608.42 [MH]+.

reactant | (S)-4-(2-(2-(6-(tert-butoxycarbonylamino)-1-oxoisoindolin-2-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.099 mmol, 70 mg | C(C)(C)(C)OC(=O)NC1=CC=C2CN(C(C2=C1)=O)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C33H33Cl2F2N3O8
reactant | ethyl acetate | 49.4 mmol, 1.5 ml | C(C)(=O)OCC | C4H8O2
solvent | HCl | 4M | Cl | ClH
product | (S)-4-(2-(2-(6-amino-1-oxoisoindolin-2-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.099 mmol, 60 mg, quantitative yield | NC1=CC=C2CN(C(C2=C1)=O)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C28H25Cl2F2N3O6
